US07786165B2
1-(2-ethoxyethoxy)-2,3,5-trimethylbenzene
To a solution of 2,3,5-trimethylphenol (3.0 g, 22.0 mmol), potassium carbonate (3.65 g, 26.4 mmol) and potassium iodide (0.55 g, 3.3 mmol) in N,N-dimethylformamide (50 mL) was added 2-chloroethyl ethyl ether (3.59 g, 33.3 mmol) under stirring at room temperature, and the mixture was stirred at 70° C. for 24 hr. To the reaction mixture were added reagents (potassium carbonate, potassium iodide and 2-chloroethyl ethyl ether) in the same amount as mentioned above, and the mixture was further stirred at 70° C. for 24 hr. The reaction mixture was diluted with ethyl acetate, washed successively with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=49/1-hexane/ethyl acetate=4/1) to give the title compound (4.1 g, yield 90%) as a colorless oil.

reactant | 2,3,5-trimethylphenol | 22.0 mmol, 3.0 g | CC1=C(C=C(C=C1C)C)O | C9H12O
reactant | potassium carbonate | 26.4 mmol, 3.65 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 3.3 mmol, 0.55 g | [I-].[K+]
reactant | 2-chloroethyl ethyl ether | 33.3 mmol, 3.59 g | C(C)OCCCl | C4H9ClO
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-ethoxyethoxy)-2,3,5-trimethylbenzene | 4.1 g, yield 90% | C(C)OCCOC1=C(C(=CC(=C1)C)C)C | C13H20O2
